US07635698B2
Step 5. 1-[1-(4-Chloro-benzoyl)-4-hydroxy-pyrrolidin-3-yl]-piperazin-2-one
A mixture of N-(2-amino-ethyl)-N-[4-(tert-butyl-dimethyl-silanyloxy)-1-(4-chloro-benzoyl)-pyrrolidin-3-yl]-2-chloro-acetamide and N-(2-amino-ethyl)-2-chloro-N-[1-(4-chloro-benzoyl)-4-hydroxy-pyrrolidin-3-yl]-acetamide (200 mg) was dissolved in 2 mL of DMF. Then K2CO3 (117 mg, 0.84 mmol) and Cat. KI were added. The mixture was stirred at 90° C. for overnight. EtOAc (5 mL) was added. The organic phase was washed with Sat. NaHCO3, dried over Na2SO4, and concentrated. The residue was purified by column chromatography (Ethyl acetate:Methanol:Et3N:3:1:0.04) to give the desired product (50 mg, 37% yield) as a colorless oil. MS (ESI), M/Z, 324 (M+1). Retention time: 1.13 min (FA-polar).

reactant | N-(2-amino-ethyl)-N-[4-(tert-butyl-dimethyl-silanyloxy)-1-(4-chloro-benzoyl)-pyrrolidin-3-yl]-2-chloro-acetamide | NCCN(C(CCl)=O)C1CN(CC1O[Si](C)(C)C(C)(C)C)C(C1=CC=C(C=C1)Cl)=O | C21H33Cl2N3O3Si
reactant | N-(2-amino-ethyl)-2-chloro-N-[1-(4-chloro-benzoyl)-4-hydroxy-pyrrolidin-3-yl]-acetamide | 200 mg | NCCN(C(CCl)=O)C1CN(CC1O)C(C1=CC=C(C=C1)Cl)=O | C15H19Cl2N3O3
reactant | K2CO3 | 0.84 mmol, 117 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-[1-(4-Chloro-benzoyl)-4-hydroxy-pyrrolidin-3-yl]-piperazin-2-one | 50 mg, 37% yield | ClC1=CC=C(C(=O)N2CC(C(C2)O)N2C(CNCC2)=O)C=C1 | C15H18ClN3O3
